US07157487B2
While stirring DMF (70 ml) at 0° C., phosphoryl chloride (4.97 ml, 53.3 mmol) was added dropwise in portions. After completion of the dropwise addition, the reaction mixture was stirred further for 10 minutes at the same temperature. A solution of 5-chloro-1-methylindole (5.89 g, 35.6 mmol) in DMF (10 ml) was added. The resulting mixture was stirred for cyclohexanecarboxylic time at 60° C. for 6 hours. The reaction mixture was cooled to room temperature, and added to a saturated aqueous solution of sodium bicarbonate in portions, followed by extraction with chloroform. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and distilled under reduced pressure to remove the solvent under reduced pressure. The residue was purified by chromatography on a silica gel column, whereby from ethyl acetate eluate fractions, 5-chloro-1-methylindole-3-carbaldehyde (5.51 g, 80%) was obtained as a colorless solid.

reactant | phosphoryl chloride | 53.3 mmol, 4.97 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-chloro-1-methylindole | 35.6 mmol, 5.89 g | ClC=1C=C2C=CN(C2=CC1)C | C9H8ClN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 5-chloro-1-methylindole-3-carbaldehyde | 5.51 g, 80% | ClC=1C=C2C(=CN(C2=CC1)C)C=O | C10H8ClNO
